US04497817
To a solution of 2 g of 2-(p-chlorophenyl)imidazo[2,1-b]benzothiazole in 40 ml of methylene chloride was added a solution of 0.95 g of sulfuryl chloride in 5 ml of methylene chloride and after stirring for 10 minutes, 40 ml of an aqueous 10% potassium hydrogencarbonate solution was added to the mixture followed by stirring. The organic layer which formed was recovered, washed with water, dried with anhydrous magnesium sulfate, and concentrated under reduced pressure to form crystals, which were recrystallized from ethanol to provide 1.4 g of 3-chloro-2-(p-chlorophenyl)imidazo[2,1-b]benzothiazole.

reactant | 2-(p-chlorophenyl)imidazo[2,1-b]benzothiazole | 2 g | ClC1=CC=C(C=C1)C=1N=C2SC3=C(N2C1)C=CC=C3 | C15H9ClN2S
reactant | sulfuryl chloride | 0.95 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | potassium hydrogencarbonate | C(O)([O-])=O.[K+]
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 3-chloro-2-(p-chlorophenyl)imidazo[2,1-b]benzothiazole | 1.4 g | ClC1=C(N=C2SC3=C(N21)C=CC=C3)C3=CC=C(C=C3)Cl | C15H8Cl2N2S
